US06787539B2
To a fresh prepared solution of sodiumethanolate in ethanol (prepared from 0.44 g (18.92 mmol) Na in 20 ml Ethanol) 1.50 g (9.46 mmol) pyrimidine-2-carboxamidine hydrochloride was added. After 10 min. 1.89 ml (9.46 mmol) diethyl ethoxymethylenemalonate was added at 0° and the resulting suspension was stirred for 12 hrs. After addition of 20 ml H2O, the pH was adjusted to 5 and the aqueous phase was extracted three times with CH2Cl2. The combined organic phases were dried (Na2SO4), filtered and evaporated. The residue was triturated with 5 ml diisopropylether, filtered off and dried to give 1.62 g (70%) 4-hydroxy-[2,2′]bipyrimidinyl-5-carboxylic acid ethyl ester as a light yellow powder, MS (EI): 246.1 (M+).

reactant | sodiumethanolate | C(C)[O-].[Na+]
reactant | ethanol | 18.92 mmol, 20 ml, 0.44 g | C(C)O | C2H6O
reactant | pyrimidine-2-carboxamidine hydrochloride | Cl.N1=C(N=CC=C1)C(=N)N
reactant | diethyl ethoxymethylenemalonate | 9.46 mmol, 1.89 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | H2O | 20 ml | O | H2O
product | 4-hydroxy-[2,2′]bipyrimidinyl-5-carboxylic acid ethyl ester | 1.62 g, 70% | C(C)OC(=O)C=1C(=NC(=NC1)C1=NC=CC=N1)O | C11H10N4O3
